US09233974B2
A 20 mL vial with stirbar was charged with 3-((trimethylsilyl)ethynyl)-10,11-dihydro-5H-dibenzo[c,g]chromen-8(9H)-one (850 mg, 2.44 mmol) and formic acid (9.8 mL). The solution was heated to 65° C. After 3 h, the reaction was judged complete. The mixture was concentrated under reduced pressure; the resulting residue was taken up in CH2Cl2 and loaded onto a prepacked 25 g silica gel cartridge. The product was purified by chromatography on a prepacked 80 g silica gel column eluting with a solvent gradient from 5% to 85% EtOAc/hexanes. The product containing fractions were combined and concentrated to provide 3-acetyl-10,11-dihydro-5H-dibenzo[c,g]chromen-8(9H)-one (616 mg, 86%): 400 MHz 1H NMR (CDCl3) δ 8.00-7.94 (m, 1H), 7.81 (d, J=8.2 Hz, 1H), 7.77 (s, 1H), 7.64 (s, 2H), 5.16 (s, 2H), 2.98 (t, J=6.1 Hz, 2H), 2.69-2.64 (m, 2H), 2.63 (s, 3H), 2.21-2.09 (m, 2H).

reactant | 3-((trimethylsilyl)ethynyl)-10,11-dihydro-5H-dibenzo[c,g]chromen-8(9H)-one | 2.44 mmol, 850 mg | C[Si](C)(C)C#CC=1C=CC2=C(COC=3C=C4C(=CC23)CCCC4=O)C1 | C22H22O2Si
reactant | formic acid | 9.8 mL | C(=O)O | CH2O2
product | 3-acetyl-10,11-dihydro-5H-dibenzo[c,g]chromen-8(9H)-one | 616 mg, 86% | C(C)(=O)C=1C=CC2=C(COC=3C=C4C(=CC23)CCCC4=O)C1 | C19H16O3
